US08895777B2
Preparation of 4-(2,3-Dimethylphenoxy)butyric acid (Compound 5)
2,3-Dimethylphenol (24.5 g, 0.2 mol) was dissolved in 125 ml of anhydrous ethanol. Seventy five (75) ml of 21 wt % sodium ethoxide solution in ethanol (0.2 mol) was added to the solution. The mixture solution was stirred at room temperature for 10 min. Ethyl 4-bromobutyrate (40 g, 0.205 mol) was then added to the solution. The reaction mixture was refluxed at 80° C. for 24 h. The precipitate was filtered of. The filtrate was then mixed with a solution of sodium hydroxide (10 g, 0.25 mol) in 150 ml of water. The mixture was stirred at 70° C. for about 2 hours, and monitored with HPLC. The mixture was diluted with 150 ml of water and acidified to pH 1. Oily precipitate formed immediately. The precipitate was collected by decanting the supernatant and washed with water twice (100 ml×2). The oily precipitate solidified after being kept in water at room temperature overnight.

reactant | 2,3-Dimethylphenol | 0.2 mol, 24.5 g | CC1=C(C=CC=C1C)O | C8H10O
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | Ethyl 4-bromobutyrate | 0.205 mol, 40 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | sodium hydroxide | 0.25 mol, 10 g | [OH-].[Na+]
solvent | ethanol | 125 ml | C(C)O | C2H6O
solvent | water | 150 ml | O | H2O
solvent | water | 150 ml | O | H2O
solvent | ethanol | 0.2 mol | C(C)O | C2H6O
product | 4-(2,3-Dimethylphenoxy)butyric acid | CC1=C(OCCCC(=O)O)C=CC=C1C | C12H16O3
